US06977263B2
A mixture of methyl hydrogen isopthalalate (1.8 g, 10 mmol), benzoic hydrazide (1.4 g, 10 mmol) and phosphorous oxychloride (20 ml), under an atmosphere of nitrogen, was heated at 120° C. for 18 hours, then cooled to room temperature and then poured into ice water (500 ml). This mixture was treated with solid sodium carbonate until the aqueous layer was basic (pH 8-9) and the resultant pink solid was filtered. This material was treated with 100 ml methanol and the suspension was treated with sodium hydroxide solution (30 ml, 1M). The reaction mixture was heated at reflux for 4 hours, then cooled and then concentrated to dryness. The residue was dissolved in water (100 ml) and the solution was acidified to pH 3 by addition of concentrated hydrochloric acid. The resultant precipitate was filtered, then dried and then subjected to chromatography on silica gel eluting with a mixture of dichloromethane and methanol (98:2, v/v) to yield 3-(5-phenyl-1,3,4-oxadiazol-2-yl)-benzoic acid as a white solid (600 mg). 1H NMR [(CD3)2SO, 500 MHz]: δ 8.80 (s, 1H), 8.38 (m, 1H), 8.18 (m, 3H), 7.78 (m, 1H), 7.62 (m, 3H). MS(EI): 265(M+−H).

reactant | benzoic hydrazide | 10 mmol, 1.4 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | phosphorous oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 3-(5-phenyl-1,3,4-oxadiazol-2-yl)-benzoic acid | 600 mg | C1(=CC=CC=C1)C1=NN=C(O1)C=1C=C(C(=O)O)C=CC1 | C15H10N2O3
